US09079866B2
2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]-N-tert-butylbenzenesulfonamide
The title compound was prepared in a manner similar to that described in Example 427 using (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid and 5-(5-chloro-3-fluoropyridin-2-yl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H20FN5O2S, 401.13; m/z found, 402.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.97 (d, J=1.1, 2H), 8.50-8.44 (m, 1H), 8.17 (dd, J=8.0, 1.3, 1H), 7.79 (dd, J=12.0, 1.8, 1H), 7.70 (m, 1H), 7.63 (m, 1H), 7.43 (dd, J=7.5, 1.5, 1H), 1.09 (s, 9H).

reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
reactant | 5-(5-chloro-3-fluoropyridin-2-yl)pyrimidin-2-amine | ClC=1C=C(C(=NC1)C=1C=NC(=NC1)N)F | C9H6ClFN4
product | 2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]-N-tert-butylbenzenesulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C)F | C19H20FN5O2S
